US04282365
Step D: 6,11-Dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin-9-carbonitrile
Heat a mixture of 9.26 gm. (0.0278 mole) of 9-bromo-6,11-dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin, 5.23 (0.0584 mole) of cuprous cyanide and 33 ml. of dimethylformamide under reflux for 9 hours with vigorous stirring. Cool the reaction mixture and shake with a mixture of 45 ml. of chloroform, 32 ml. of saturated sodium cyanide solution and 32 ml. of water until all solids have dissolved. Separate the organic layer, wash with aqueous sodium cyanide solution and water and dry over anhydrous magnesium sulfate. Remove the solvent under vacuum to obtain the title product (yield 7.76 gm., m.p. 217°-220° C.). Recrystallize from acetic acid to obtain pure product as tan prisms [m.p. 224°-225° C., pmr (CDCl3) 5.03 (2H,s, CH2O), 617(2H,s,OCH2O--)].

reactant | 9-bromo-6,11-dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin | 0.0278 mole | BrC=1C=CC2=C(C(C3=C(OC2)C=C2C(=C3)OCO2)=O)C1 | C15H9BrO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
product | 6,11-Dihydro-2,3-methylenedioxy-11-oxodibenz[b,e]oxepin-9-carbonitrile | yield 7.76 gm | C1OC2=CC3=C(OCC4=C(C3=O)C=C(C=C4)C#N)C=C2O1 | C16H9NO4
